US09415110B1
4-(8-Bromooctyloxy)aniline
Into a glass hydrogenation vessel were added 1-(8-bromooctyloxy)-4-nitrobenzene (5.00 g, 15.1 mmol) and absolute ethanol (50 mL). Carefully, 10% Pd/C (0.5 g) was added, the vessel was charged with hydrogen (40 psi), and the mixture was shaken on a Pan hydrogenation apparatus. After 3 h the mixture was diluted with CH2Cl2 (25 mL), filtered through a Celite pad, and volatiles removed in vacuo to give 4.20 g (14.0 mmol, 93%), of as a pale pink solid, mp 61-63° C. This material was used without purification in the next reaction. 1H NMR (500 MHz, CDCl3) δ 1.27-1.44 (m, 8H), 1.75-1.84 (m, 4H), 3.39 (t, J=5.0 Hz, 2H), 3.89 (t, J=6.5 Hz, 2H), 6.77-6.88 (m, 2H); 13C NMR (125 MHz, CDCl3) δ 22.7, 25.9, 26.0, 28.1, 28.7, 29.2, 29.4, 31.8, 32.8, 34.0, 68.5, 115.7, 118.6, 135.2, 154.1; HRMS (ESI) calculated for C14H23BrNO [M+H]+ 300.0957, observed 300.0963.

reactant | 1-(8-bromooctyloxy)-4-nitrobenzene | 15.1 mmol, 5.00 g | BrCCCCCCCCOC1=CC=C(C=C1)[N+](=O)[O-] | C14H20BrNO3
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 4-(8-Bromooctyloxy)aniline | BrCCCCCCCCOC1=CC=C(N)C=C1 | C14H22BrNO
